US06635640B2
Pyridinium tribromide (90% (Aldrich), 24.70 g, 69.50 mmol) was added portion-wise over 10 minutes to a suspension of 4-pyridin-4-yl-1H-indole (4.50 g, 23.17 mmol) in 2-methyl-2-propanol (135 mL), ethanol (90 mL) and acetic acid (45 mL). The mixture was stirred at room temperature for one hour and then acetic acid (180 mL) was added. After stirring for an additional hour, water (1 mL) and zinc dust (15.06 g, 232 mmol) were added and stirring was continued for another hour. Residual zinc dust was removed by filtration and washed with methanol. The filtrate was concentrated and the syrupy residue was stirred in water (500 mL) overnight. The solid that formed was filtered, washed with water to remove zinc and pyridine salts and dried under high vacuum dry to give 5.85 g (99%) of 4-pyridin-4-yl-1,3-dihydroindol-2-one as a light yellow solid.

reactant | Pyridinium tribromide | 69.50 mmol, 24.70 g | [Br-].[Br-].[Br-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | 4-pyridin-4-yl-1H-indole | 23.17 mmol, 4.50 g | N1=CC=C(C=C1)C1=C2C=CNC2=CC=C1 | C13H10N2
reactant | water | 1 mL | O | H2O
solvent | 2-methyl-2-propanol | 135 mL | CC(C)(C)O | C4H10O
solvent | ethanol | 90 mL | C(C)O | C2H6O
solvent | acetic acid | 45 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 232 mmol, 15.06 g | [Zn] | Zn
solvent | acetic acid | 180 mL | C(C)(=O)O | C2H4O2
product | 4-pyridin-4-yl-1,3-dihydroindol-2-one | 5.85 g, 99% | N1=CC=C(C=C1)C1=C2CC(NC2=CC=C1)=O | C13H10N2O
